US07241791B2
Step 1: 1-isopropyl-3-(4-methoxy-2-methylphenyl)-7-(trifluoromethyl)-1H-indazole
Prepared according to Method D step B from 3-(4-methoxy-2-methylphenyl)-7-(trifluoro-methyl)-1H-indazole (0.150 g, 0.52 mmol), sodium hydride (60% in oil, 0.025 g, 1.04 mmol) and allyl bromide (0.07 mL, 0.7 mmol) to give the title compound (0.072 g) as a white solid.

reactant | 3-(4-methoxy-2-methylphenyl)-7-(trifluoro-methyl)-1H-indazole | 0.52 mmol, 0.150 g | COC1=CC(=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F)C | C16H13F3N2O
reactant | sodium hydride | 1.04 mmol, 0.025 g | [H-].[Na+]
reactant | allyl bromide | 0.7 mmol, 0.07 mL | C(C=C)Br | C3H5Br
product | 1-isopropyl-3-(4-methoxy-2-methylphenyl)-7-(trifluoromethyl)-1H-indazole | 0.072 g | C(C)(C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)C | C19H19F3N2O
